US07429609B2
1-{5-(1-Acetyl-1H-pyrazol-4-yl)-6-fluoro-3-[(E)-2-(4-fluorophenyl)vinyl]-1H-indazol-1-yl}ethanone
A solution of 40 mg of 5-bromo-6-fluoro-3-[(E)-2-(4-fluorophenyl)vinyl]-1-trityl-1H-indazole, 29.4 mg of 1-tritylpyrazole-4-boronic acid, 4 mg of tetrakis(triphenylphosphine)palladium(0) and 32.8 mg of barium hydroxide octahydrate in a mixture of dimethoxyethane:water=0.6 mL:0.1 mL was stirred at 80° C. for a day. The solution was diluted with ethyl acetate and water, and the organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. Then the solvent was evaporated. A solution of the crude product in 1 mL of dichloromethane was added with 0.2 mL of trifluoroacetic acid at room temperature, and stirred at this temperature for 1 hour. The reaction solution was poured to aqueous sodium hydrogen carbonate, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and the then the solvent was evaporated. A solution of the crude product in 1 mL of tetrahydrofuran and 0.5 mL of diisopropylethylamine was added with 0.1 mL of acetic anhydride at room temperature and stirred at this temperature for a day. The reaction solution was evaporated, and the residue was purified and separated by silica gel column chromatography (ethyl acetate:n-hexane=1:3-1:1), to afford 13 mg of the title compound as colorless crystals.

reactant | 5-bromo-6-fluoro-3-[(E)-2-(4-fluorophenyl)vinyl]-1-trityl-1H-indazole | 40 mg | BrC=1C=C2C(=NN(C2=CC1F)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)\C=C\C1=CC=C(C=C1)F | C34H23BrF2N2
reactant | 1-tritylpyrazole-4-boronic acid | 29.4 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=CC(=C1)B(O)O | C22H19BN2O2
reactant | barium hydroxide octahydrate | 32.8 mg | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | dimethoxyethane | C(OC)COC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-{5-(1-Acetyl-1H-pyrazol-4-yl)-6-fluoro-3-[(E)-2-(4-fluorophenyl)vinyl]-1H-indazol-1-yl}ethanone | 13 mg | C(C)(=O)N1N=CC(=C1)C=1C=C2C(=NN(C2=CC1F)C(C)=O)\C=C\C1=CC=C(C=C1)F | C22H16F2N4O2
